US07666878B2
87c) (2-Ethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester
To a solution of triethylsilane (818 μl, 5.12 mmol) in TFA (1.6 ml) at −10° C. is added portion wise (2-ethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-oxo-acetic acid methyl ester (0.34 g, 1.46 mmol). After stirring at room temperature overnight, the solvent is removed in vacuo and the resulting residue is neutralized with saturated sodium bicarbonate solution. The solution is extracted with DCM (3×20 ml) and the organic portions are combined, dried (Na2SO4) and concentrated in vacuo. The residue is loaded on a pre-packed Isolute™ silica column and eluted with DCM/MeOH (100:0 increasing to 98:2) to yield the titled compound as a yellow powder. (MH+ 219)

reactant | triethylsilane | 5.12 mmol, 818 μl | C(C)[SiH](CC)CC | C6H16Si
reactant | (2-ethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-oxo-acetic acid methyl ester | 1.46 mmol, 0.34 g | COC(C(=O)C1=C(NC2=NC=CC=C21)CC)=O | C12H12N2O3
solvent | TFA | 1.6 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2-Ethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | COC(CC1=C(NC2=NC=CC=C21)CC)=O | C12H14N2O2
